US07820698B2
Step 1: 4-hydroxymethyl-benzene-sulphonamide.
LiAlH4 (235 mg, 6.2 mmoles) was suspended in dry THF (10 mL) under nitrogen atmosphere. The suspension was cooled to 0° C. and 4-sulphamoyl-benzoic acid (500 mg, 2.48 mmoles, as a suspension in 10 mL of dry THF) was added. The resulting mixture was then refluxed for 18 hours. The reaction was quenched by addition of 3N HCl at 0° C. The quenched mixture was extracted with AcOEt, the organic layer was dried over Na2SO4 and evaporated to dryness. The crude material was purified by flash chromatography (SiO2, petroleum ether/AcOEt from 9/1 to 1/1) to yield the title compound in amount of 105 mg.

reactant | LiAlH4 | 6.2 mmoles, 235 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-sulphamoyl-benzoic acid | S(N)(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H7NO4S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-hydroxymethyl-benzene-sulphonamide | OCC1=CC=C(C=C1)S(=O)(=O)N | C7H9NO3S
